US06403779B1
N6-Benzoyl-2′-O-(dimethylaminooxyethyl)adenosine
5′-O-t-Butyldiphenylsilyl-N6-benzoyl-2′-O-(dimethylaminooxyethyl)adenosine (7.77 g, 11.15 mmol) was dissolved in THF (110 mL), and tetrabutylammonium fluoride (TBAF)on silica (1.0-1.5 mmol/g silica, 10.1 g) was added. After stirring for 24 hours the solid was filtered, washed with THF, and the solvent was evaporated in vacuo to give a solid which was purified by column chromatography using CH2Cl2—EtOAc—MeOH, 75:20:5, to give the title compound as a solid (4.42 g, 86%).

reactant | 5′-O-t-Butyldiphenylsilyl-N6-benzoyl-2′-O-(dimethylaminooxyethyl)adenosine | 11.15 mmol, 7.77 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(NC(C3=CC=CC=C3)=O)=NC=NC12)OCCON(C)C)O | C37H44N6O6Si
solvent | THF | 110 mL | C1CCOC1 | C4H8O
product | N6-Benzoyl-2′-O-(dimethylaminooxyethyl)adenosine | 4.42 g, 86% | C(C1=CC=CC=C1)(=O)NC=1C=2N=CN([C@H]3[C@H](OCCON(C)C)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C21H26N6O6
